US03963706
a. 2-Chloro-N-(2-chloro-4-sulphamoylphenyl)-acetamide
2-Chloro-4-sulphamoylaniline (50 g) and α-chloroacetyl chloride (24 ml) were refluxed together for 45 min. and the product worked up as in Example 2(a) to yield 59.5 g, m.p. 162°-164°

reactant | 2-Chloro-4-sulphamoylaniline | 50 g | ClC1=C(N)C=CC(=C1)S(N)(=O)=O | C6H7ClN2O2S
reactant | α-chloroacetyl chloride | 24 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(2-chloro-4-sulphamoylphenyl)-acetamide | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
